US09216173B2
To a solution of 3-{[(benzyloxy)carbonyl]amino}-1,1,1-trifluoropropan-2-yl trifluoromethanesulfonate (150 g, 380 mmol) in DMSO (1200 mL) was added sodium azide (36.5 g, 562 mmol). The reaction mixture was heated to 40° C. After 5 hours, the reaction mixture was diluted with water (1000 mL) and extracted with diethyl ether (3×1200 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to afford benzyl (2-azido-3,3,3-trifluoropropyl)carbamate. The material was used without further purification.

reactant | 3-{[(benzyloxy)carbonyl]amino}-1,1,1-trifluoropropan-2-yl trifluoromethanesulfonate | 380 mmol, 150 g | FC(S(=O)(=O)OC(C(F)(F)F)CNC(=O)OCC1=CC=CC=C1)(F)F | C12H11F6NO5S
reactant | sodium azide | 562 mmol, 36.5 g | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 1200 mL | CS(=O)C | C2H6OS
solvent | water | 1000 mL | O | H2O
product | benzyl (2-azido-3,3,3-trifluoropropyl)carbamate | N(=[N+]=[N-])C(CNC(OCC1=CC=CC=C1)=O)C(F)(F)F | C11H11F3N4O2
